US09359381B2
Step 2: 10-(5-Chlorofuran-2-yl)-1,3-dimethyl-5-(4-methylthiazol-2-yl)-8-((2-oxooxazolidin-3-yl)methyl)-7,8-dihydro-1H-pyrimido[4′,5′:3,4]pyrrolo[2,1-c][1,4]thiazine-2,4(3H,10H)-dione
Sodium hydride (60% wt in mineral oil, 6.69 mg, 0.167 mmol) was added to a solution of 2-chloroethyl((10-(5-chlorofuran-2-yl)-1,3-dimethyl-5-(4-methylthiazol-2-yl)-2,4-dioxo-2,3,4,7,8,10-hexahydro-1H-pyrimido[4′,5′:3,4]pyrrolo[2,1-c][1,4]thiazin-8-yl)methyl)carbamate (48.9 mg, 0.084 mmol) in THF (4 mL). The mixture was heated at reflux for 18 hours. A further portion of sodium hydride (60% wt in mineral oil, 33.4 mg, 0.836 mmol) was added and the mixture heated at reflux for a further 2 days. The mixture was cooled to room temperature, quenched with water (20 ml) and extracted with ethyl acetate (2×30 ml). The combined organic extracts were washed with brine, passed through a hydrophobic frit and evaporated under vacuum. Purification by mass-directed HPLC under the following conditions afforded the title compound as a mixture of diastereomers.

reactant | Sodium hydride | 0.167 mmol, 6.69 mg | [H-].[Na+]
reactant | 2-chloroethyl((10-(5-chlorofuran-2-yl)-1,3-dimethyl-5-(4-methylthiazol-2-yl)-2,4-dioxo-2,3,4,7,8,10-hexahydro-1H-pyrimido[4′,5′:3,4]pyrrolo[2,1-c][1,4]thiazin-8-yl)methyl)carbamate | 0.084 mmol, 48.9 mg | ClCCOC(NCC1CN2C(C(S1)C=1OC(=CC1)Cl)=C1C(=C2C=2SC=C(N2)C)C(N(C(N1C)=O)C)=O)=O | C23H23Cl2N5O5S2
reactant | sodium hydride | 0.836 mmol, 33.4 mg | [H-].[Na+]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 10-(5-Chlorofuran-2-yl)-1,3-dimethyl-5-(4-methylthiazol-2-yl)-8-((2-oxooxazolidin-3-yl)methyl)-7,8-dihydro-1H-pyrimido[4′,5′:3,4]pyrrolo[2,1-c][1,4]thiazine-2,4(3H,10H)-dione | ClC1=CC=C(O1)C1SC(CN2C1=C1C(=C2C=2SC=C(N2)C)C(N(C(N1C)=O)C)=O)CN1C(OCC1)=O | C23H22ClN5O5S2
